### PR TITLE
feat: add difference on `DTreeMap`/`TreeMap`/`TreeSet`

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds the difference operation on `DTreeMap`/`TreeMap`/`TreeSet` and proves several lemmas about it.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 6eeb215e8f1986cd1628f8e02d6c69e337db034e --onto b0e6db322421ce368999f08870fd747e45242f86`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-27 19:59:58)

File: src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean [hunk 1]
```diff
@@ -1661,6 +1661,75 @@ theorem WF.eraseMany! {_ : Ord α} [TransOrd α] {ρ} [ForIn Id ρ α] {l : ρ}
...
+
+theorem eraseManyEntries!_eq_foldl {_ : Ord α} {l : List ((a : α) × β a)} {t : Impl α β} :
+    (t.eraseManyEntries! l).val = l.foldl (init := t) fun acc ⟨k, _⟩ => acc.erase! k := by
+  simp [eraseManyEntries!, ← List.foldl_hom Subtype.val, List.forIn_pure_yield_eq_foldl]
+
+theorem eraseManyEntries_eq_foldl {_ : Ord α} {l : List ((a : α) × β a)} {t : Impl α β} (h : t.Balanced) :
+    (t.eraseManyEntries l h).val = l.foldl (init := t) fun acc ⟨k, _⟩ => acc.erase! k := by
+  simp [eraseManyEntries, erase_eq_erase!, ← List.foldl_hom Subtype.val, List.forIn_pure_yield_eq_foldl]
+
+theorem eraseManyEntries_eq_foldl_impl {_ : Ord α} {t₁ : Impl α β} (h₁ : t₁.Balanced) {t₂ : Impl α β} :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean]:
```suggestion
theorem eraseManyEntries_impl_eq_foldl {_ : Ord α} {t₁ : Impl α β} (h₁ : t₁.Balanced) {t₂ : Impl α β} :
```
and similar below
